US06348474B1
1-(2,4-Dichlorophenyl)-1-trimethylsilyloxyethene
Diisopropylamine (16.2 g) was dissolved in tetrahydrofuran (133 ml), and 1.6N n-butyl lithium (100 ml) was dropwise added thereto under ice-cooling. The reaction mixture was stirred at the same temperature for 10 min, and a solution of 2,4-dichoroacetophenone (25.2 g) in tetrahydrofuran (133 ml) was dropwise added under cooling in a dry ice-acetone bath. Hexamethylphosphoramide (26.7 ml) was added little by little. The mixture was stirred at the same temperature for 5 min, and chlorotrimethylsilane (20.3 ml) was dropwise added, which was followed by stirring at room temperature for 30 min. The reaction mixture was partitioned between ice-cooled n-hexane and ice-cooled water. The organic layer was washed twice with ice-cooling water and then once with saturated brine, dried over sodium sulfate and concentrated under reduced pressure to dryness to give a crude product (37.5 g) of the objective compound as a pale-yellow oil.

reactant | Diisopropylamine | 16.2 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6N, 100 ml | C(CCC)[Li]
reactant | 2,4-dichoroacetophenone | 25.2 g | CC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | chlorotrimethylsilane | 20.3 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 133 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 133 ml | O1CCCC1 | C4H8O
solvent | Hexamethylphosphoramide | 26.7 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 1-(2,4-Dichlorophenyl)-1-trimethylsilyloxyethene | 37.5 g | ClC1=C(C=CC(=C1)Cl)C(=C)O[Si](C)(C)C | C11H14Cl2OSi
